Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Tree Nuts
 
Attending: ___
 
Chief Complaint:
aphasia, left facial droop
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ right handed man with a history of
borderline HTN and anxiety who presents with a transient episode
of inability to speak and a facial droop.

He was talking with his partner at 6pm when he had sudden onset
of inability to speak. He knew what he wanted to say and could
understand speech, but was unable to form any words. His partner
noticed a left facial droop at this time. This lasted ___
seconds then resolved.  He currently feels back to baseline. He
denied having any other neurologic symptoms at the time. 

 
Past Medical History:
anxiety
borderline HTN
 
Social History:
___
Family History:
- mother: CHF and rheumatoid arthritis
- father: HTN
- sister: rheumatoid arthritis
 
Physical Exam:
On admission:

EXAMINATION
Vitals:  97.3  84  160/91  16  99% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects on the
stroke card. Described the ___ picture with detail.  Able
to read without difficulty.  Speech was not dysarthric.  Able to
follow both midline and appendicular commands.  There was no
evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
counting.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs: 1+ in arms, trace in legs bilaterally. Toes were 
downgoing
on right, mute on left.

-Sensory: No deficits to light touch, cold sensation, vibratory
sense throughout. 

-Coordination: No dysmetria on FNF or HKS bilaterally. No
rebound.

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk in tandem and on toes and heels without difficulty. Romberg
absent.
 
On discharge: unchanged from admission
 
Pertinent Results:
___ 06:58PM   WBC-6.4 RBC-5.18 HGB-16.2 HCT-46.6 MCV-90 
MCH-31.3 MCHC-34.8 RDW-12.5 RDWSD-41.4
___ 06:58PM   NEUTS-39.4 ___ MONOS-11.2 EOS-7.2* 
BASOS-0.3 IM ___ AbsNeut-2.54 AbsLymp-2.68 AbsMono-0.72 
AbsEos-0.46 AbsBaso-0.02
___ 06:58PM   ASA-NEG ETHANOL-17* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:58PM   ALBUMIN-4.9 CALCIUM-9.3 PHOSPHATE-3.4 
MAGNESIUM-2.2
___ 06:58PM   cTropnT-<0.01
___ 06:58PM   ALT(SGPT)-27 AST(SGOT)-39 ALK PHOS-69 TOT 
BILI-0.3
___ 06:58PM   GLUCOSE-88 UREA N-20 CREAT-0.9 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 09:07PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:07PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ NCHCT: No acute intracranial process.
___ CTA head/neck: 1. Unremarkable CTA of head and neck. 
2. Paranasal sinus disease as described above. 

___ TTE: Premature appearance of microbubbles in the left heart 
after intravenous injection most c/w a patent foramen ovale. 
Mild symmetric left ventricular hypertrophy with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Mildly dilated 
ascending aorta. 

___ MRI head: 1.  Study is mildly degraded by motion. 
2. Multiple small acute to subacute right MCA and possible PCA 
infarcts in the right frontal, parietal, and occipital lobes, as 
above.  Differential 
considerations include embolic source or watershed distribution 
hypoperfusion. 
3. No evidence of hemorrhagic transformation. 
4. Paranasal sinus disease as above. 

___ ___: No evidence of deep venous thrombosis in the right or 
left lower extremity veins. 
  
___ MRV pelvis: No evidence of pelvic DVT. 

 
Brief Hospital Course:
___ is a ___ with anxiety and HTN who was admitted 
___ for inability to speak and left facial droop thought to 
be a TIA. Episode lasted ___ seconds. Exam nonfocal. NCHCT and 
CTA head/neck negative. MRI showed multiple small acute to 
subacute right MCA and possible PCA infarcts in the right 
frontal, parietal, and occipital lobes. TTE showed PFO. MRV 
pelvis and ___ negative for clots. He was discharged with a 
___ of Hearts monitor to evaluate for atrial fibrillation as a 
possible cause given his distribution of infarcts.

Stroke workup:
- Risk factors: A1c 5.2 LDL 138
- Imaging: CT/CTA head/neck negative, MRI shows multiple strokes 
in R MCA/PCA
- TTE: +PFO
- ___ pelvis: no DVT

Transitional issues:
- ___ of hearts monitor to evaluate for atrial fibrillation
- counseled on substance abuse cessation (MJ, cocaine, EtOH)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride Dose is Unknown  PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Finasteride 5 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6
5. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6
6. Outpatient Lab Work
Prothormbin Gene Mutation
Factor V Leiden

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic Stroke
Hyperlipidemia
Patent Foramen Ovale

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of a left facial droop 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Evaluation here showed that you had a PFO (patent foramen ovale) 
in your heart which may be a risk factor for stroke. MRI and US 
of your pelvis and legs showed that you had no clots. You were 
started on Aspirin 81 mg for stroke prevention. Your bad 
cholesterol or LDL was high, so you were started on Atorvastatin 
for this. You will be sent home with a heart monitor for 1 month 
to rule out atrial fibrillation (we did not see any while you 
were here).  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- high cholesterol
- patent foramen ovale in your heart

Do NOT use cocaine as this is also a risk factor for Stroke.

Please avoid heavy lifting or contact sports until you follow up 
with Neurology.
 
We are changing your medications as follows:  
- START Aspirin 81 and Atorvastatin 40
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___